US06313107B1
2,2-Dimethylpropyl 2-methyl-4-bromobenzoate (Intermediate 82)
Using General Esterification Method C; 2-methyl-4-bromo-benzoic acid (1.82 g, 8.47 mmols) was refluxed for 3 h with 10 mL SOCl2. The resulting solution was concentrated under reduced pressure and the crude acyl chloride combined with 2,2-dimethylpropanol (0.75 g, 8.47 mmols) and pyridine (1.4 mL, 16.9 mmols) to give the title compound (1.64 g, 68%) after work-up and column chromatography (2-5% EtOAc-hexanes) as a colorless oil.

reactant | 2-methyl-4-bromo-benzoic acid | 8.47 mmols, 1.82 g | CC1=C(C(=O)O)C=CC(=C1)Br | C8H7BrO2
reactant | 2,2-dimethylpropanol | 8.47 mmols, 0.75 g | CC(CO)(C)C | C5H12O
reactant | pyridine | 16.9 mmols, 1.4 mL | N1=CC=CC=C1 | C5H5N
solvent | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
product | 2,2-Dimethylpropyl 2-methyl-4-bromobenzoate | 1.64 g, 68% | CC1=C(C(=O)OCC(C)(C)C)C=CC(=C1)Br | C13H17BrO2
